US07842696B2
DIPEA (5.12 g, 6.85 mL, 0.59 mmol) was added to a stirred solution of 4-benzyloxy benzoic acid (2 g, 8.7 mmol) in DMF (18 mL). HOBT (1.3 g, 9.5 mmol) and EDCI.HCl (4.2 g, 21.7 mmol) were added at room temperature. After 2 minutes glycine ethyl ester HCl (1.47 g, 10.5 mmol) was added to the reaction mixture. The resulting mixture was stirred at room temperature overnight. Water was then added, and the product was extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford the crude product. Purification using column chromatography (silica gel of mesh size of 60-120 using 40% EtOAc in Hexane as eluent) afforded 2.47 g (90.1% yield) of (4-Benzyloxy-benzoylamino)-acetic acid ethyl ester. LCMS Purity %: 98.6, 1H NMR (DMSO): δ 8.9 (t, 1H), 7.8 (d, 2H), 7.5 (m, 5H), 7.2 (d, 2H), 5.4 (s, 2H), 4.2 (q, 2H), 4.0 (d, 2H), 0.8 (t, 3H).

reactant | DIPEA | 0.59 mmol, 6.85 mL, 5.12 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-benzyloxy benzoic acid | 8.7 mmol, 2 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | HOBT | 9.5 mmol, 1.3 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 21.7 mmol, 4.2 g | CCN=C=NCCCN(C)C.Cl
reactant | glycine ethyl ester HCl | 10.5 mmol, 1.47 g | Cl.C(C)OC(CN)=O
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | (4-Benzyloxy-benzoylamino)-acetic acid ethyl ester | 2.47 g, 90.1% yield | C(C)OC(CNC(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O)=O | C18H19NO4
